US08440658B2
To a solution of 6-allyl-3-tert-butyl-6-phenyl-1,3-oxazinan-2-one (400 mg, 1.46 mmol) in dry THF (10 mL) was added dropwise 1 M of BH3/THF (4.5 mL, 4.40 mmol) at 0° C. under N2. After stirring at rt for 2 h, the reaction mixture was cooled to 0° C. again, and water (0.1 mL), 3 M of aq NaOH solution (0.1 mL), and 30% H2O2 (0.3 mL) were added sequentially. After the mixture was stirred at rt for another 2 h, 1 N aq HCl (1.5 mL) was added. The mixture was extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated to give the crude product, which was purified by preparative TLC followed by preparative chiral HPLC to afford two isomers of 3-tert-butyl-6-(3-hydroxypropyl)-6-phenyl-1,3-oxazinan-2-one.

reactant | 6-allyl-3-tert-butyl-6-phenyl-1,3-oxazinan-2-one | 1.46 mmol, 400 mg | C(C=C)C1(CCN(C(O1)=O)C(C)(C)C)C1=CC=CC=C1 | C17H23NO2
reactant | BH3/THF | 4.40 mmol, 1 M, 4.5 mL | B.C1CCOC1
reactant | NaOH | 3 M, 0.1 mL | [OH-].[Na+]
reactant | H2O2 | 0.3 mL | OO | H2O2
reactant | HCl | 1 N, 1.5 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 0.1 mL | O | H2O
product | 3-tert-butyl-6-(3-hydroxypropyl)-6-phenyl-1,3-oxazinan-2-one | C(C)(C)(C)N1C(OC(CC1)(C1=CC=CC=C1)CCCO)=O | C17H25NO3
